US07179823B1
Sodium hydride (60%, oily, 70.0 mg) was added to a solution of 5-chloromethyl-2-(2-phenyl-4-thiazolylmethoxy)pyridine (554 mg), ethyl 3-(3-phenyl-1H-pyrazol-4-yl)propionate (428 mg) in N,N-dimethylformamide (10 ml) at 0° C., and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-[3-phenyl-1-[2-(2-phenyl-4-thiazolylmethoxy)-3-pyridylmethyl]-1H-pyrazol-4-yl]propionate (678 mg, yield: 74%) as colorless crystals from the fraction eluted with ethyl acetate-hexane (2:3, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 88–89° C.

reactant | Sodium hydride | 70.0 mg | [H-].[Na+]
reactant | 5-chloromethyl-2-(2-phenyl-4-thiazolylmethoxy)pyridine | 554 mg | ClCC=1C=CC(=NC1)OCC=1N=C(SC1)C1=CC=CC=C1 | C16H13ClN2OS
reactant | ethyl 3-(3-phenyl-1H-pyrazol-4-yl)propionate | 428 mg | C1(=CC=CC=C1)C1=NNC=C1CCC(=O)OCC | C14H16N2O2
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[3-phenyl-1-[2-(2-phenyl-4-thiazolylmethoxy)-3-pyridylmethyl]-1H-pyrazol-4-yl]propionate | 678 mg, yield: 74% | C1(=CC=CC=C1)C1=NN(C=C1CCC(=O)OCC)CC=1C(=NC=CC1)OCC=1N=C(SC1)C1=CC=CC=C1 | C30H28N4O3S
